US08895313B2
3-Trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Amide Coupling section using 2-(4-aminophenyl)-6-methoxybenzothiazole (0.06 g, 0.23 mmol) and 3-trifluoromethylbenzoyl chloride (0.054 g, 0.26 mmol) in dry pyridine (7.5 ml) to give the title compound (0.085 g, 85%) as a colourless solid after work-up.

reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 0.23 mmol, 0.06 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | 3-trifluoromethylbenzoyl chloride | 0.26 mmol, 0.054 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.085 g, 85% | FC(C=1C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=CC1)(F)F | C22H15F3N2O2S
